Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Tetracyclines
 
Attending: ___.
 
Chief Complaint:
Chest pain 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This is a ___ year-old female with a history of HTN who presents 
with chest pain.  
.  
For a couple weeks, pt has been feeling fatigued, generalized 
weakness, increased frequency of headaches. Her symptoms 
worsened 4 days ago. Her headache has been persistent the last 4 
days despite motrin, tylenol, zanaflex, excedrin, and zonegran. 
She has had these headaches before. She describes a frontal 
headache, throbbing, currently ___. No photophobia, neck 
stiffness. She also noted chills, but have them with her 
hypothyeroidism. She also reports watery diarrhea over the 
weekend. No abdominal pain. She has her worsening nausea. No 
vomiting. No fevers. No sick contacts.  
.  
Over the years, she has had chest pain intermittently, 
associated with stress. The chest pain started 2 weeks ago but 
intensified over the weekend. She describes the pain as a heavy 
substernal pressure radiating down to her left arm. This pain 
started ___ and worsened until today, prompting her go to 
the ED. She feels the pain is worse when she bends over. It does 
not worsen with deep breaths. She was noted to be pale, 
diaphoretic today while at therapy. She has chronic nausea and 
palpitations. No dizziness, SOB. No recent exertion.  
.  
Of note, pt has had chronic nausea for the past ___ years and was 
evaluated by GI over the summer. EGD showed gastritis and grade 
2 esophagitis; gastric emptying study was normal.  
.  
In the ED, initial vitals were T: 97.1 BP: 129/81 HR: 79 RR: 22 
O2Sat: 98RA. EKG showed sinus bradycardia with HR of ___ without 
acute signs of ischemia. She received ASA, toradol x2, and SL 
NTG x2 with improvement of CP from 6->4. 2 sets of CEs neg.  
.  
Currently her CP is at a 6, improved from 10 this AM. She 
believes the NTG helped the most. Her HA has improved with 
Toradol.  
.  
ROS: The patient denies any orthopnea, PND, lower extremity 
oedema, cough, sinus problems, nasal congestion, sore throat, 
urinary frequency, urgency, dysuria, vision changes, focal 
weakness, rash.  
.  

 
Past Medical History:
HTN  
Hypothyroidism  
Migraine and tension headaches  
MVP  
Complex partial seizures  
Sleep apnea, not tolerating CPAP at home  
Depression/Generalized anxiety disorder  
ADHD  
Asthma  

 
Social History:
___
Family History:
Mother with colorectal cancer, pancreatitis. No h/o MI.  
Father died of MI at age of ___.  

 
Physical Exam:
Vitals: T: 97.8, BP: 138/94, HR: 61, RR: 20, O2Sat: 100RA  
GEN: Well-appearing, obese female no acute distress  
HEENT: EOMI, sclera anicteric, MMM, OP Clear  
NECK: No JVD, no carotid bruits, no cervical lymphadenopathy, no 
meningismus  
COR: RRR, no M/G/R, normal S1 S2  
PULM: Lungs CTAB, no W/R/R  
CHEST: tender to palpation over sternum, L side of chest and L 
arm  
ABD: Obese, soft, mildly tender in LLQ, no rebound, no guarding, 
ND, +BS  
EXT: No C/C/E, 2+ DP pulses  

 
Pertinent Results:
troponins <0.01 x3
 
Brief Hospital Course:
Assesment: This is a ___ year-old female with a history of HTN, 
hypothyroidism, GAD who presents with chest pain, fatigue, and 
headaches.  
.
Chest pain: Likely MSK given reproducible pain on exam. ___ also 
be from esophagitis and gastritis, ? esophageal spasm as 
improved with NTG. Unlikely pericarditis since no EKG changes. 
Unlikely to be ACS given duration of symptoms without EKG 
changes or increased CEs. Also had normal stress test in ___. 
Patient had serial normal EKGs, CEs negative x3. 
.  
Headache: Pt reports it's consistent with her tension headaches 
except not being relieved. Has improved with Toradol. No 
meningimus, afebrile, no leukocytosis to suggest meninigitis.  
cont. toradol  
.  
# Nausea: Has been thoroughly worked up by GI.  
- start protonix
- Compazine prn  
.  
# HTN: Well controlled.  
- cont. propranolol  
.  
# Hypothyroidism: TSH WNL on admission.  
- cont. levothyroxine.  
.  
# Complex partial seizures:  
- cont. Lamictal.  
.  
# Sleep apnea, not tolerating CPAP at home:  
- CPAP ordered  
.  
# Depression/Generalized anxiety disorder:  
- cont.  
.  
# ADHD  
- cont. Ritalin  
.  
# Asthma: Currently asymptomatic.  
- albuterol prn  

 
Medications on Admission:
ALBUTEROL SULFATE [PROAIR HFA] - 90 mcg HFA Aerosol Inhaler - 2  

puffs by mouth every four (4) to six (6) hours as needed for  
cough/wheezing  
LAMOTRIGINE [LAMICTAL] - (Prescribed by Other Provider: ___ 
 
- 200 mg Tablet - 1 (One) Tablet(s) by mouth twice a day  
LEVOTHYROXINE SODIUM - 175MCG Tablet - ONE BY MOUTH EVERY DAY  
METHYLPHENIDATE [RITALIN LA] - (Prescribed by Other Provider:  
___ - 30 mg Capsule, Multiphasic Rel.50-50 - 2 (Two)  
Capsule(s) by mouth once a day  
PRAMIPEXOLE [MIRAPEX] - 0.125 mg Tablet - 1 (One) Tablet(s) by  
mouth once a day 2 hours before sleep  
PRAZOSIN - (Prescribed by Other Provider: ___ - 1 mg  
Capsule - 1 (One) Capsule(s) by mouth three times a day  
PROCHLORPERAZINE MALEATE - 10 mg Tablet - 1 Tablet(s) by mouth  
twice a day  
PROPRANOLOL - (Prescribed by Other Provider: ___ - 80 mg  
Capsule, Sust. Release 24 hr - 1 (One) Capsule(s) by mouth once 
a  
day  
TIZANIDINE [ZANAFLEX] - 4 mg Tablet - 1 Tablet(s) by mouth twice 
 
a day  
TRAZODONE - 100 mg Tablet - 2 Tablet(s) by mouth at bedtime ___  

take additional tablet qhs prn sleeplessness  
ZONISAMIDE [ZONEGRAN] - 100 mg Capsule - 2 Capsule(s) by mouth 
at  
bedtime  

 
Discharge Medications:
1. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q6H (every 6 hours) as 
needed.  
2. Lamotrigine 100 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day).  
3. Levothyroxine 175 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Methylphenidate 20 mg Tablet Sustained Release Sig: Three (3) 
Tablet Sustained Release PO DAILY (Daily).  
5. Pramipexole 0.125 mg Tablet Sig: One (1) Tablet PO qhs ().  
6. Prazosin 1 mg Capsule Sig: One (1) Capsule PO TID (3 times a 
day).  
7. Prochlorperazine Maleate 10 mg Tablet Sig: One (1) Tablet PO 
twice a day as needed for nausea.  
8. Propranolol 80 mg Capsule,Sustained Action 24 hr Sig: One (1) 
Capsule,Sustained Action 24 hr PO DAILY (Daily).  
9. Tizanidine 2 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
10. Trazodone 100 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime) as needed.  
11. Zonisamide 100 mg Capsule Sig: Two (2) Capsule PO QHS (once 
a day (at bedtime)).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Atypical Chest pain

Secondary:
HTN
Hypothyroid
GAD

 
Discharge Condition:
stable

 
Discharge Instructions:
You were admitted to the hospital with chest pain that was 
thought to NOT be of cardiac origin per blood tests and EKGS.

Please take all medications as prescribed

Please call your doctor or return to the hosptial if you have 
more chest pain, shortness of breath or any other concerning 
symptoms
 
Followup Instructions:
___